US05474998
Step A: 2-chloro-5-(1-methylethenyl)thiophene
A solution of 80 mL of 3M methyl magnesium bromide in ether was added to a solution of 32 g of 2-acetyl-5-chlorothiophene in 400 mL of ether at 0° to 10° C. After being stirred for 1 hour at 25° C., the reaction mixture was poured onto saturated aq NH4Cl, washed with brine, dried (MgSO4), and concentrated. The crude carbinol was dissolved in 400 mL of 1-chlorobutane, 0.5 g of potassium hydrogen sulfate was added, and the mixture was heated at reflux with a water separator until the distillate was clear. The reaction mixture was washed with aq. NaHCO3, dried (MgSO4), and concentrated after first adding 0.1 g of 4-t-butyl catechol. Distillation at 90° at aspirator pressure afforded the title compound as a yellow oil. 1H NMR (CDCl3): δ2.08 (s, 3H), 4.95 (s, 1H), 5.25 (s, 1H), 6.77 (s, 2H).

reactant | methyl magnesium bromide | 3M, 80 mL | C[Mg]Br
reactant | 2-acetyl-5-chlorothiophene | 32 g | C(C)(=O)C=1SC(=CC1)Cl | C6H5ClOS
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | CCOCC | C4H10O
solvent | ether | 400 mL | CCOCC | C4H10O
product | 2-chloro-5-(1-methylethenyl)thiophene | ClC=1SC(=CC1)C(=C)C | C7H7ClS
